US07049342B2
2-Ethyl-3-[4-methoxy-3-[2-[4-(trifluoromethyl)phenyl]ethoxy]phenyl]propanoic acid
A mixture of ethyl 2-ethyl-3-[4-methoxy-3-[2-[4-(trifluoromethyl)phenyl]ethoxy]phenyl]propanoate (793 mg, 1.87 mmol), methanol (20 mL) and 1 mol/L aqueous solution of sodium hydroxide (10 mL) was stirred for 4 hours at 60° C. After cooling, ice water (50 mL) was added and the mixture was made acidic with 1 mol/L hydrochloric acid, which was then extracted with ethyl acetate. The organic layer was washed with water and brine, dried over anhydrous sodium sulfate, and then concentrated. The residue was purified by silica gel column chromatography (eluent: n-hexane:ethyl acetate=4:1 v/v) to afford 654 mg (88%) of the title compound as colorless crystals. Further, these were recrystallized from diethyl ether-n-hexane, thus obtaining 391 mg of the purified title compound as colorless needles.

reactant | ethyl 2-ethyl-3-[4-methoxy-3-[2-[4-(trifluoromethyl)phenyl]ethoxy]phenyl]propanoate | 1.87 mmol, 793 mg | C(C)C(C(=O)OCC)CC1=CC(=C(C=C1)OC)OCCC1=CC=C(C=C1)C(F)(F)F | C23H27F3O4
reactant | sodium hydroxide | 10 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
product | 2-Ethyl-3-[4-methoxy-3-[2-[4-(trifluoromethyl)phenyl]ethoxy]phenyl]propanoic acid | 654 mg, 88% | C(C)C(C(=O)O)CC1=CC(=C(C=C1)OC)OCCC1=CC=C(C=C1)C(F)(F)F | C21H23F3O4
